Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ gentleman with history of hypertension and
obstructive sleep apnea presented with shortness of breath.

He was in his usual state of health until this morning, when he
was commuting from ___ to ___ when he developed sudden
onset shortness of breath.  He gotten off the bus and was making
his way to take the subway.  He noticed that in between subway
stops, he would get severely short of breath while walking.  He
also felt lightheaded and wondered if he would pass out.  He has
never had anything like this before.  He called his PCP at ___ and he made an appointment to see him the following day.  He
called his wife, who told him to immediately go to the ED.

He has had very few medical illnesses, no history of PE or DVT. 
His last colonoscopy was 2 to ___ years ago which he reports was
normal.  He was told that his next colonoscopy should be in ___
years.  He has never smoked.  He has no current cancer.  Family
history is unremarkable for clotting disorders.  He recently
started to work as a ___, driving 4 days/week for 12
hours/day for 3 months in the summer.  More recently, in the 
last
2 months, he has reduced his driving to 3 days/week of 9
hours/day driving.  He does say that he is quite active even
while driving, and stands up to open the doors for all his
passengers.  He endorses a nonproductive cough which has been
there for the last week.  No other recent illnesses.

In the ED:
- Initial vital signs were notable for: T 97.6, HR 77, BP 
164/88,
RR 17, 95% RA
- Exam notable for: symmetric, trace ___ edema, no erythema or
tenderness to palpation
- Labs were notable for: Trop<0.01 x2, proBNP 60, Ddimer 3237
- Studies performed include:
--CXR unremarkable
--CT chest showing bilateral pulmonary emboli in the right and
left main arteries, evidence of right heart strain
--Bilateral lower extremity ultrasound showing occlusive DVT in
right peroneal vein
- Patient was given: Heparin drip
- Consults: None

Vitals on transfer: T 98.3, HR 96, BP 196/114, RR 15, 96% 2L NC

Upon arrival to the floor, he is feeling well without 
complaints.

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
Hypertension
Obstructive sleep apnea
Sciatica
 
Social History:
___
Family History:
Father with colon cancer.  Mother with lung cancer.  Brother 
with
melanoma.  Another brother with hemochromatosis.  He was told
that he has a genetic predisposition for hemochromatosis, but
does not have the actual disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 2216 Temp: 98.2 PO BP: 174/100 L Sitting HR: 96
RR: 18 O2 sat: 93% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL. Sclera anicteric and without injection. 
ENT: MMM. Thyroid not palpable.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
MSK: No edema.
SKIN: Warm. No rash.
NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3.
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM:
=========================
24 HR Data (last updated ___ @ 432)
    Temp: 98.1 (Tm 98.4), BP: 167/98 (163-188/94-108), HR: 75
(72-95), RR: 16 (___), O2 sat: 94% (92-96), O2 delivery: 1L    


GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL. Sclera anicteric and without injection. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
MSK: No edema.
SKIN: Warm. No rash.
NEUROLOGIC: No focal deficits 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:42AM BLOOD WBC-7.5 RBC-4.51* Hgb-14.7 Hct-43.5 
MCV-97 MCH-32.6* MCHC-33.8 RDW-11.8 RDWSD-41.5 Plt ___
___ 10:42AM BLOOD Neuts-73.0* Lymphs-16.0* Monos-8.2 
Eos-1.6 Baso-0.9 Im ___ AbsNeut-5.50 AbsLymp-1.21 
AbsMono-0.62 AbsEos-0.12 AbsBaso-0.07
___ 10:42AM BLOOD Plt ___
___ 12:12PM BLOOD ___ PTT-29.8 ___
___ 12:12PM BLOOD D-Dimer-3237*
___ 10:42AM BLOOD Glucose-114* UreaN-15 Creat-0.9 Na-139 
K-4.3 Cl-105 HCO3-21* AnGap-13
___ 10:42AM BLOOD ALT-18 AST-25 LD(LDH)-337* AlkPhos-74 
TotBili-0.4
___ 10:42AM BLOOD cTropnT-<0.01 proBNP-60
___ 03:45PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2

KEY IMAGING:
==============
___ CXR: No acute cardiopulmonary process.

___ CTA Chest:
1. Acute bilateral pulmonary emboli seen within the main right 
and left 
pulmonary arteries extending into all of the lobar arteries, 
with near 
occlusion of several segmental pulmonary arteries. 
2. Enlargement of the right ventricle with flattening of the 
interventricular 
septum is concerning for right heart strain. 
3. 1.5 cm hypodense lesion within the right hepatic lobe favored 
to represent 
a hemangioma, but incompletely characterized on this scan. 
4. Cholelithiasis. 
5. There is a 6 mm hypodense nodule in the right thyroid lobe

___ Bilateral Lower Extremity Venous Ultrasound:
Deep venous thrombosis seen within both of the right peroneal 
veins, 1 of 
which appears to be occlusive and the other appears only 
partially occlusive. 

___ TTE: 
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 64 %
(normal 54-73%). There is no resting left ventricular outflow 
tract gradient. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus is mildly dilated with a 
mildly dilated ascending aorta. The aortic arch diameter is 
normal with a normal descending aorta diameter. There is no 
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. The pulmonary artery systolic pressure could not 
be estimated. There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal biventricular cavity sizes, and regional/global 
biventricular systolic function. No valvular pathology or 
pathologic flow identified. Indeterminate pulmonary artery 
systolic pressure. Mild thoracic aortic enlargement.

DISCHARGE LABS:
===============
___ 06:50AM BLOOD WBC-7.0 RBC-4.65 Hgb-15.1 Hct-44.7 MCV-96 
MCH-32.5* MCHC-33.8 RDW-11.8 RDWSD-41.3 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-102* UreaN-15 Creat-0.9 Na-144 
K-4.1 Cl-107 HCO3-23 AnGap-14
___ 06:50AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.___ gentleman with history of hypertension and 
obstructive sleep apnea presented with shortness of breath, 
found with bilateral segmental and distal RLE DVT, with evidence 
of right heart strain on CT, consistent with submassive PE. 

TRANSITIONAL ISSUES:
====================
[ ] Please refer patient to hematology for further 
hypercoagulable work-up as outpatient
[ ] Ensure age appropriate cancer screening and consider PSA 
given symptoms of nocturia
[ ] Apixaban 10mg BID through ___ AM, followed by Apixaban 5mg 
BID starting ___ ___. Duration based on remaining 
hypercoagulable/malignancy work-up as outpatient. 
[ ] ___ work-up pending on discharge
[ ] Hypertensive during hospitalization up to 170s-180s, though 
improved once Verapamil consolidated. Monitor BPs and consider 
starting low dose ACEI vs. chlorthalidone as outpatient
[ ] Incidentally found 1.5cm hypodense lesion within right 
hepatic lobe on CT. Likely hemangioma vs. cyst. Consider 
abdominal US as outpatient for further characterization
[ ] Incidentally found 6mm hypodense nodule in right thyroid US. 
Consider dedicated thyroid US and FNA as outpatient. 

ACUTE ISSUES:
=============
#Acute venous thromboembolism
#Bilateral segmental PE
#Distal RLE DVT:
Presented with shortness of breath, found with negative 
biomarkers, elevated D-dimer, and multiple bilateral segmental 
PE and RLE DVT. Evidence of right heart strain on CT, though 
preserved right sided function on TTE. Remained hemodynamically 
stable. Works as ___ and recently started driving 
taxi at night, but not significantly sedentary, so not 
convincing that this is provoked. No family history of VTE. 
Cancer screening up to date per patient, but does endorse 
nocturia, arising concern for possible prostate cancer. Treated 
with Apixaban with ___ work-up pending on discharge. Given low 
suspicion for ___ continue on Apixaban pending work-up. 

#Hypertension:
Presented with SBPs 200s after missing dose Verapamil. BPs 
remained 160s-180s throughout while on Verapamil, though 
improved to SBP 140 on discharge.

#Liver lesion:
Incidentally found with 1.5 cm hypodense lesion within the right 
hepatic lobe on CT. Likely hemangioma vs cyst. Consider 
abdominal US as outpatient for further evaluation

#Right thyroid nodule
Incidentally found 6 mm hypodense nodule in the right thyroid 
lobe on CT chest. To consider thyroid US and FNA as outpatient 

CHRONIC ISSUES:
===============
#OSA
CPAP at night
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 240 mg PO Q24H 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 14 Doses 
Last dose ___ AM 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablet(s) by mouth twice 
a day Disp #*1 Dose Pack Refills:*0 
2.  Apixaban 5 mg PO BID 
First dose ___ ___  
3.  Verapamil SR 240 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary Embolism
Right lower extremity deep venous thrombosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You presented to the hospital feeling short of breath. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We performed a CT scan and diagnosed you with a blood clot in 
your leg and lung, called a pulmonary embolism.   We placed you 
on a blood thinner medication, which you will continue going 
forward. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___